US07875645B2
2-(2,6-Dicyclopropyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from 1,3-dicyclopropyl-2-(2,2-dibromo-vinyl)-benzene and ethylenediamine in analogy to Example 1e): light yellow crystals; MS (ISP): 241.4 ([M+H]+, 100%).

reactant | 1,3-dicyclopropyl-2-(2,2-dibromo-vinyl)-benzene | C1(CC1)C1=C(C(=CC=C1)C1CC1)C=C(Br)Br | C14H14Br2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | 2-(2,6-Dicyclopropyl-benzyl)-4,5-dihydro-1H-imidazole | C1(CC1)C1=C(CC=2NCCN2)C(=CC=C1)C1CC1 | C16H20N2
